US08106215B2
A.6.3 Synthesis of (1S,2S,5R)-2-[3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl]-isoindole-1,3-dione
A mixture of 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid (208 mg), (1S,2S,5R)-2-(7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione (273 mg), DIPEA (0.41 mL) in dry DMF (6 mL) was stirred at RT for 4 h. The reaction mixture was directly purified by preparative HPLC to give the title compound (130 mg, 28%) as an oil. LC-MS: tR=1.02 min; [M+H]+=521.99

reactant | 2-methyl-5-m-tolyl-thiazole-4-carboxylic acid | 208 mg | CC=1SC(=C(N1)C(=O)O)C=1C=C(C=CC1)C | C12H11NO2S
reactant | (1S,2S,5R)-2-(7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione | 273 mg | FC1(C[C@H]2CN[C@@H]([C@H]2C1)CN1C(C2=CC=CC=C2C1=O)=O)F | C16H16F2N2O2
reactant | DIPEA | 0.41 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (1S,2S,5R)-2-[3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl]-isoindole-1,3-dione | 130 mg, 28% | CC=1SC(=C(N1)C(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)(F)F)CN1C(C2=CC=CC=C2C1=O)=O)C=1C=C(C=CC1)C | C28H25F2N3O3S
